US05993780
a. 5-(2,3,4-Triacetoxybutanoylamino)-2,4,6-triiodo-1,3-di-(acetoxymethyl)-benzene
5-Amino-2,4,6-triiodo-1,3-di-(acetoxymethyl)benzene (2.0 g, 3.25 mmol) was dissolved in dimethylacetamide (4 ml) at room temperature. 2,3,4-Triacetoxybutyryl chloride (7.4 g, 26.4 mmol) was added and the mixture was stirred for 20 h. The work up was carried out as in Example 24i. A white crystalline product 2.2 g (79%), was isolated.

reactant | 5-Amino-2,4,6-triiodo-1,3-di-(acetoxymethyl)benzene | 3.25 mmol, 2.0 g | NC=1C(=C(C(=C(C1I)COC(C)=O)I)COC(C)=O)I | C12H12I3NO4
reactant | 2,3,4-Triacetoxybutyryl chloride | 26.4 mmol, 7.4 g | C(C)(=O)OC(C(=O)Cl)C(COC(C)=O)OC(C)=O | C10H13ClO7
solvent | dimethylacetamide | 4 ml | CC(=O)N(C)C | C4H9NO
product | 5-(2,3,4-Triacetoxybutanoylamino)-2,4,6-triiodo-1,3-di-(acetoxymethyl)-benzene | 2.2 g, 79% | C(C)(=O)OC(C(=O)NC=1C(=C(C(=C(C1I)COC(C)=O)I)COC(C)=O)I)C(COC(C)=O)OC(C)=O | C22H24I3NO11
